### PR TITLE
[Merged by Bors] - feat (Algebra/Vertex) Heterogeneous vertex operators

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This is an initial PR in preparation for defining vertex algebras.  The notion of `heterogeneous vertex operator` doesn't seem to appear in the literature, but it is a convenient way to simultaneously express:
1. composites of vertex operators
2. intertwining operators between modules
3. the scalar action of multivariable Laurent series, used in locality and residue products.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Vertex/HetVertexOperator.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+  map_add' := by
+      intro x y
+      simp only [map_add, HahnSeries.add_coeff', Pi.add_apply, forall_const]
+      exact rfl
+  map_smul' := by
+      intro r x
+      simp only [map_smul, HahnSeries.smul_coeff, RingHom.id_apply, forall_const]
+      exact rfl
+
+theorem coeff.isPWOsupport (A : HetVertexOperator Γ R V W) (v : V) : (A v).coeff.support.IsPWO :=
```
Comment (jcommelin) [inline Mathlib/Algebra/Vertex/HetVertexOperator.lean:65]: I think that using a `.` in the name will make it harder to use this with dot notation as `A.the_name v`. What do you think of
```suggestion
theorem coeff_isPWOsupport (A : HetVertexOperator Γ R V W) (v : V) : (A v).coeff.support.IsPWO :=
```

File: Mathlib/Algebra/Vertex/HetVertexOperator.lean [hunk 2]
```diff
@@ -0,0 +1,90 @@
...
+
+/-- Given a coefficient function valued in linear maps satisfying a partially well-ordered support
+condition, we produce a heterogeneous vertex operator. -/
+@[simps]
+def HetVertexOperator.of_coeff (f : Γ → V →ₗ[R] W)
+    (hf : ∀(x : V), (Function.support (fun g => f g x)).IsPWO) : HetVertexOperator Γ R V W where
+  toFun := fun x => {
+    coeff := fun g => f g x
+    isPWO_support' := hf x
+  }
```
Comment (jcommelin) [inline Mathlib/Algebra/Vertex/HetVertexOperator.lean:82]:
```suggestion
  toFun := fun x =>
  { coeff := fun g => f g x
    isPWO_support' := hf x }
```

File: Mathlib/Algebra/Vertex/HetVertexOperator.lean [hunk 3]
```diff
@@ -0,0 +1,90 @@
...
+theorem coeff_inj : Function.Injective (coeff : HetVertexOperator Γ R V W → Γ → (V →ₗ[R] W)) := by
+  intro _ _ h
+  ext v n
+  exact congrFun (congrArg DFunLike.coe (congrFun h n)) v
+
+/-- Given a coefficient function valued in linear maps satisfying a partially well-ordered support
+condition, we produce a heterogeneous vertex operator. -/
+@[simps]
+def HetVertexOperator.of_coeff (f : Γ → V →ₗ[R] W)
+    (hf : ∀(x : V), (Function.support (fun g => f g x)).IsPWO) : HetVertexOperator Γ R V W where
```
Comment (jcommelin) [inline Mathlib/Algebra/Vertex/HetVertexOperator.lean:78]: If you want, this can be abbreviated to
```suggestion
    (hf : ∀(x : V), (Function.support (f · x)).IsPWO) : HetVertexOperator Γ R V W where
```

File: Mathlib/RingTheory/HahnSeries/Multiplication.lean [hunk 4]
```diff
@@ -81,25 +81,34 @@ def HahnModule (Γ R V : Type*) [PartialOrder Γ] [Zero V] [SMul R V] :=
...
 
 variable {V : Type*} [AddCommMonoid V] [SMul R V]
 
 instance instAddCommMonoid : AddCommMonoid (HahnModule Γ R V) :=
   inferInstanceAs <| AddCommMonoid (HahnSeries Γ V)
+instance instRSMul {V} [Monoid R] [AddMonoid V] [DistribMulAction R V] :
+    SMul R (HahnModule Γ R V) :=
+  inferInstanceAs <| SMul R (HahnSeries Γ V)
+
+instance instRModule [Semiring R] [Module R V] : Module R (HahnModule Γ R V) :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Multiplication.lean:110]: I guess `instSMul` and `instModule` are not available as names? (I didn't check.)

What do you think of `instBaseSMul` and `instBaseModule`.

I'm trying to come up with a good name that doesn't hardcode a variable name.

(Of course this is a nitpick, because it is an instance name, so hopefully nobody will ever need to refer to it.)

File: Mathlib/Algebra/Vertex/HetVertexOperator.lean [hunk 5]
```diff
@@ -0,0 +1,90 @@
...
+-/
+
+noncomputable section
+
+variable {Γ : Type*} [PartialOrder Γ] {R : Type*} {V W : Type*} [CommRing R]
+  [AddCommGroup V] [Module R V] [AddCommGroup W] [Module R W]
+
+/-- A heterogeneous `Γ`-vertex operator over a commutator ring `R` is an `R`-linear map from an
+`R`-module `V` to `Γ`-Hahn series with coefficients in an `R`-module `W`.-/
+abbrev HetVertexOperator (Γ : Type*) [PartialOrder Γ] (R : Type*) [CommRing R]
```
Comment (jcommelin) [inline Mathlib/Algebra/Vertex/HetVertexOperator.lean:41]: Minor point: heterogeneous equality is called `HEq`. What do you think of `HVertexOperator`?

File: Mathlib/RingTheory/HahnSeries/Multiplication.lean (hunk 4 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/HahnSeries/Multiplication.lean]: That is a good idea.

File: Mathlib/Algebra/Vertex/HetVertexOperator.lean (hunk 5 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Vertex/HetVertexOperator.lean]: That is much better.  I was unsatisfied with `Het`.

File: Mathlib/Algebra/Vertex/HVertexOperator.lean [hunk 6]
```diff
@@ -0,0 +1,89 @@
...
+  exact congrFun (congrArg DFunLike.coe (congrFun h n)) v
+
+/-- Given a coefficient function valued in linear maps satisfying a partially well-ordered support
+condition, we produce a heterogeneous vertex operator. -/
+@[simps]
+def HetVertexOperator.of_coeff (f : Γ → V →ₗ[R] W)
+    (hf : ∀(x : V), (Function.support (f · x)).IsPWO) : HVertexOperator Γ R V W where
+  toFun := fun x => {
+    coeff := fun g => f g x
+    isPWO_support' := hf x }
```
Comment (jcommelin) [inline Mathlib/Algebra/Vertex/HVertexOperator.lean:81]:
```suggestion
  toFun := fun x =>
  { coeff := fun g => f g x
    isPWO_support' := hf x }
```

**Review by jcommelin — APPROVED** [review]
One final style comment.

bors d+
